US07074819B2
Step 4) Synthesis of 3-[7-methoxy-3-(4-methoxyphenyl)thiochroman-4-yl]benzaldehyde
The mixture of 3-[7-methoxy-3-(4-methoxyphenyl)thiochroman-4-yl]benzyl alcohol (358 mg, 0.912 mmol) and manganese(IV) oxide (634 mg, 7.296 mmol) in methylene chloride (80 ml) was stirred at 40° C. for 3 h. When the reaction was completed, methylene chloride was added to the reaction mixture, which was then filtrated over silica gel and washed with several times with methylene chloride. The organic layer was concentrated under reduced pressure to give 360 mg (quant.) of the title compound as a white crystal.

reactant | 3-[7-methoxy-3-(4-methoxyphenyl)thiochroman-4-yl]benzyl alcohol | 0.912 mmol, 358 mg | COC1=CC=C2C(C(CSC2=C1)C1=CC=C(C=C1)OC)C=1C=C(CO)C=CC1 | C24H24O3S
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese(IV) oxide | 7.296 mmol, 634 mg | [O-2].[Mn+4].[O-2]
product | 3-[7-methoxy-3-(4-methoxyphenyl)thiochroman-4-yl]benzaldehyde | COC1=CC=C2C(C(CSC2=C1)C1=CC=C(C=C1)OC)C=1C=C(C=O)C=CC1 | C24H22O3S
